US05835174
50 parts of TL205 (E-Merck) liquid crystal, 0.5 parts of DOSS (75% solution in water/EtOH), 47.5 parts of DI water, and 2 parts of methyl beta-cyclodextrin (50.8% solution in water), Wacker Company, were added to a Waring® blender and were emulsified at very high shear for 5 minutes. Optical microscopy at 500× showed emulsified LC droplets in the range of 1 to 2 microns, with the majority of droplets less than 1 micron. 319 parts of polymer emulsion latex (47% polymer by weight, emulsion film-forming polymer latex poly(2-EHA/Styrene/HEMA/MAA), 52/25/20/0.5), was added to the emulsified LC mixture. The sample was then subjected to mild agitation for 120 minutes at 85 C. The sample was then viewed under the microscope at 500× for the absence of nematic LC. A film of the mixture was clear and had the correct refractive index based on 25% by weight absorbed LC in the polymer.

reactant | TL205 | CCCCCC1CCC(CC1)C2CCC(CC2)C3=CC(=C(C=C3)F)F | C23H34F2
reactant | methyl beta-cyclodextrin | CO[C@H]1[C@@H]([C@H]2[C@H](O[C@@H]1O[C@@H]3[C@H](O[C@@H]([C@H]([C@@H]3OC)OC)O[C@@H]4[C@H](O[C@@H]([C@H]([C@@H]4OC)OC)O[C@@H]5[C@H](O[C@@H]([C@H]([C@@H]5OC)OC)O[C@@H]6[C@H](O[C@@H]([C@H]([C@@H]6OC)OC)O[C@@H]7[C@H](O[C@@H]([C@H]([C@@H]7OC)OC)O[C@@H]8[C@H](O[C@H](O2)[C@H]([C@@H]8O)OC)CO)CO)CO)CO)CO)CO)CO)O | C54H94O35
solvent | DI water | O | H2O
product | 2-EHA Styrene HEMA | CCCCC(CC)C(=O)O.C=CC1=CC=CC=C1.CC(=C)C(=O)OCCO | InChI=1S/C8H16O2.C8H8.C6H10O3/c1-3-5-6-7(4-2)8(9)10;1-2-8-6-4-3-5-7-8;1-5(2)6(8)9-4-3-7/h7H,3-6H2,1-2H3,(H,9,10);2-7H,1H2;7H,1,3-4H2,2H3
